US04657916
Preparation of 4-benzyloxy-2-(11-aminoundecyl) quinoline-N-oxide
In this example, 5 m moles of 4-benzyloxy-2-(10-formyldecyl) quinoline-N-oxide is dissolved in methanol, and 50 m moles of ammonium acetate and 15 m moles of sodium cyanoborohydride are added thereto with ice cooling. Then, the mixture is stirred for 1.5 hours. After the reaction, the solvent is removed therefrom by distillation, and then the mixture is extracted with chloroform. The chloroform layer is dried over anhydrous sodium sulfate, and the solvent is removed therefrom by distillation. The residue is purified by silica gel column procedure, whereby the captioned compound is obtained as colorless crystals (yield: 21.5%).

reactant | 4-benzyloxy-2-(10-formyldecyl) quinoline-N-oxide | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCC=O | C27H33NO3
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
product | 4-benzyloxy-2-(11-aminoundecyl) quinoline-N-oxide | yield: 21.5% | C(C1=CC=CC=C1)OC1=CC(=[N+](C2=CC=CC=C12)[O-])CCCCCCCCCCCN | C27H36N2O2
